US08232294B2
Step 2) (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(dimethylamino)acetate hydrochloride
To a solution of (R)-1-(4-(4-(7-methoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(dimethylamino)acetate (100 mg, 0.16 mmol) in a mixture of MeOH (10 mL)/EtOAc (15 mL) was added a saturated solution of HCl in EtOAc (5 mL). After stirring for 40 minutes, the resulted mixture was concentrated in vacuo. The residue was recrystallized in a mixture of MeOH (2 mL)/EtOAc (8 mL). The solid was collected by filtration, washed with EtOAc (5 mL×3) and dried under vacuum overnight. The title compound was obtained as a yellow solid (90.1 mg, 80%).

reactant | (R)-1-(4-(4-(7-methoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(dimethylamino)acetate | 0.16 mmol, 100 mg | CN(CC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C)C | C34H34FN5O6
reactant | HCl | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(dimethylamino)acetate hydrochloride | Cl.CN(CC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C)C | InChI=1S/C34H34FN5O6.ClH/c1-21(45-31(41)20-38(3)4)19-39-22(2)32(34(43)40(39)24-9-7-6-8-10-24)33(42)37-23-11-14-30(27(35)17-23)46-29-15-16-36-28-18-25(44-5)12-13-26(28)29;/h6-18,21H,19-20H2,1-5H3,(H,37,42);1H/t21-;/m1./s1
